### PR TITLE
feat: Hall's conjecture

### PR DESCRIPTION
**Pull request by seewoo5**
#184. It might be possible to golf proof of `elkies_bound`.

### CODE REVIEW

File: FormalConjectures/Wikipedia/Hall.lean [hunk 1]
```diff
@@ -0,0 +1,80 @@
...
+    simp at h
+    have h1 : 76510695 < (5853886516781223 : ℝ) ^ (2 : ℝ)⁻¹ := by
+      norm_num
+      rw [← sqrt_eq_rpow]
+      have hsq : (76510695 : ℝ) ^ 2 < 5853886516781223 := by norm_num
+      exact lt_sqrt_of_sq_lt hsq
+    have h2 : C * 76510695 < 1641843 := by
+      push_neg at hC
+      exact (mul_lt_mul_of_pos_left h1 hC).trans h
+    linarith
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Hall.lean]:
```suggestion
      rw [← sqrt_eq_rpow]
      refine lt_sqrt_of_sq_lt ?_
      norm_num
    have h2 : C * 76510695 < 1641843 := by
      nlinarith
    linarith
```

File: FormalConjectures/Wikipedia/Hall.lean [hunk 2]
```diff
@@ -0,0 +1,80 @@
...
+
+*References:*
+
+- [Hall's conjecture](https://en.wikipedia.org/wiki/Hall%27s_conjecture)
+- L. Danilov, *The Diophantine equation $x^3 - y^2 = k$ and Hall's conjecture*, Mathematical notes of the Academy of Sciences of the USSR 32 (1982): 617-618
+-/
+
+open Real
+
+def hall_ineq (C : ℝ) (e : ℝ) : Prop := ∀ x y : ℤ, y ^ 2 ≠ x ^ 3 → |y ^ 2 - x ^ 3| > C * (|x| : ℝ) ^ e
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Hall.lean]:
```suggestion
def hall_ineq (C : ℝ) (e : ℝ) : Prop :=
  ∀ x y : ℤ, y ^ 2 ≠ x ^ 3 → |y ^ 2 - x ^ 3| > C * (|x| : ℝ) ^ e
```

File: FormalConjectures/Wikipedia/Hall.lean [hunk 3]
```diff
@@ -0,0 +1,80 @@
...
+@[category research open, AMS 11]
+theorem hall_conjecture : hall_conjecture_exp 2⁻¹ := by
+  sorry
+
+/--
+Elkies' example $(x, y) = (5853886516781223, 447884928428402042307918)$ shows that such $C$ must be
+less than $0.0215$. Note that simple `linarith` does not work here.
+-/
+@[category test]
+theorem elikies_bound (C : ℝ) : hall_ineq C 2⁻¹ → C < 0.0215 := by
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Hall.lean]:
```suggestion
theorem elkies_bound (C : ℝ) : hall_ineq C 2⁻¹ → C < 0.0215 := by
```

**Review by mo271 — APPROVED** [review]
Nice, thanks!

File: FormalConjectures/Wikipedia/Hall.lean [hunk 4]
```diff
@@ -0,0 +1,80 @@
...
+
+*References:*
+
+- [Hall's conjecture](https://en.wikipedia.org/wiki/Hall%27s_conjecture)
+- L. Danilov, *The Diophantine equation $x^3 - y^2 = k$ and Hall's conjecture*, Mathematical notes of the Academy of Sciences of the USSR 32 (1982): 617-618
+-/
+
+open Real
+
+def hall_ineq (C : ℝ) (e : ℝ) : Prop :=
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Hall.lean]:
```suggestion
def HallIneq (C : ℝ) (e : ℝ) : Prop :=
```
This is the mathlib naming convention for `Prop`s (I'm not sure how strictly we have followed this, but I think it is mostly followed).

File: FormalConjectures/Wikipedia/Hall.lean [hunk 5]
```diff
@@ -0,0 +1,80 @@
...
+  ∀ x y : ℤ, y ^ 2 ≠ x ^ 3 → |y ^ 2 - x ^ 3| > C * (|x| : ℝ) ^ e
+
+def hall_conjecture_exp (e : ℝ) : Prop := ∃ C : ℝ, C > 0 ∧ hall_ineq C e
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Hall.lean]:
```suggestion
def HallConjectureExp (e : ℝ) : Prop := ∃ C : ℝ, C > 0 ∧ hall_ineq C e
```

**Review by callesonne — APPROVED** [review]
LGTM modulo two minor comments!

**Comment by mo271** [comment]
Thanks again for this nice conjecture, @seewoo5
